US07223788B2
tert-Butyl (R)-[1-(4-amino-2-hydroxymethylphenyl)pyrrolidin-3-yl]carbamate
(2-Fluoro-5-nitrophenyl)methanol was treated with tert-butyl (R)-(+)-pyrrolidin-3-ylcarbamate and subsequently hydrogenated by method C-c. This resulted in the product with the molecular weight of 307.40 (C16H25N3O3); MS (ESI): 308 (M+H+).

reactant | (2-Fluoro-5-nitrophenyl)methanol | FC1=C(C=C(C=C1)[N+](=O)[O-])CO | C7H6FNO3
reactant | tert-butyl (R)-(+)-pyrrolidin-3-ylcarbamate | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
product | tert-Butyl (R)-[1-(4-amino-2-hydroxymethylphenyl)pyrrolidin-3-yl]carbamate | NC1=CC(=C(C=C1)N1C[C@@H](CC1)NC(OC(C)(C)C)=O)CO | C16H25N3O3
